US08664210B2
To a solution of 3,3-(ethylenedioxy)-4,4-dimethyl-17β-tert-butyldimethyl-silyloxyandrost-5-en-7-one (3.9 g) in dioxane (270 ml), Pd/C 10% (390 mg) was added, and then the mixture was hydrogenated at RT for 72 h. The catalyst was filtered off, washed with EtOAc and the organic phase evaporated under reduced pressure. The crude reaction mixture was purified by flash chromatography (SiO2, n-hexane/EtOAc/toluene 90/5/5) to give 3,3-(ethylenedioxy)-4,4-dimethyl-17β-tert-butyldimethyl-silyloxyandrostan-7-one (2.44 g, 63% yield).

reactant | 3,3-(ethylenedioxy)-4,4-dimethyl-17β-tert-butyldimethyl-silyloxyandrost-5-en-7-one | 3.9 g | C1OC2(C(C3=CC([C@H]4[C@@H]5CC[C@@H]([C@@]5(C(O[SiH3])(C)C)CC[C@@H]4[C@]3(CC2)C)C(C)(C)C)=O)(C)C)OC1 | C29H48O4Si
solvent | dioxane | 270 ml | O1CCOCC1 | C4H8O2
catalyst | Pd/C | 390 mg | [Pd] | Pd
product | 3,3-(ethylenedioxy)-4,4-dimethyl-17β-tert-butyldimethyl-silyloxyandrostan-7-one | 2.44 g, 63% yield | C1OC2(C(C3CC([C@H]4[C@@H]5CC[C@@H]([C@@]5(C(O[SiH3])(C)C)CC[C@@H]4[C@]3(CC2)C)C(C)(C)C)=O)(C)C)OC1 | C29H50O4Si
